US05399703
Methyl 4-[2-[2-(1H-tetrazol-5-yl)phenylthio]phenylcarbamoyl]phenoxyacetate
In 10 ml of DMF were suspended 1.1 g of methyl 4-[2-(2-cyanophenylthio)phenylcarbamoyl]phenoxyacetate, 0.85 g of sodium azide and 0.7 g of ammonium chloride, and the mixture was Stirred at 110°-120° C. for 8 hours. After cooling, the reaction mixture was acidified with concentrated hydrochloric acid and diluted with water. The resulting precipitate was subjected to silica gel column chromatography (chloroform→chloroform-ethanol=50:1) to give 0.4 g of the title compound as white crystals, m.p. 204°-205° C.

reactant | methyl 4-[2-(2-cyanophenylthio)phenylcarbamoyl]phenoxyacetate | 1.1 g | C(#N)C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C23H18N2O4S
reactant | sodium azide | 0.85 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.7 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-[2-[2-(1H-tetrazol-5-yl)phenylthio]phenylcarbamoyl]phenoxyacetate | 0.4 g | N1N=NN=C1C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C23H19N5O4S
